US07989461B2
To a solution of p-toluoyl chloride (34.2 ml, 259 mmol) in DCM (250 ml), charged to a 500 mL round bottom, t-butylamine (57.3 ml, 543 mmol) was added slowly at 0° C. The reaction mixture was stirred at 0° C. for 45 min. The reaction mixture was then partioned between additional DCM and water. The organic layer was then washed with water 2 and brine. The organic layer was then dried over magnesium sulfate and concentrated under vacuum to give a white solid N-tert-butyl-4-methylbenzamide (47.07 g, 95.1% yield). MS (M+H)+ 192.

reactant | p-toluoyl chloride | 259 mmol, 34.2 ml | C1(=CC=C(C=C1)C(=O)Cl)C | C8H7ClO
reactant | t-butylamine | 543 mmol, 57.3 ml | C(C)(C)(C)N | C4H11N
reactant | water | O | H2O
solvent | DCM | 250 ml | C(Cl)Cl | CH2Cl2
product | N-tert-butyl-4-methylbenzamide | 47.07 g, 95.1% yield | C(C)(C)(C)NC(C1=CC=C(C=C1)C)=O | C12H17NO
